US05266721
reacting a 4-tert.butylbenzyl magnesuim halide with a stereochemically pure glycydyl tosylate or epichlorohydrin to form a single enantiomer of 4-(4'-tert.butylphenyl)-1,2-epoxybutane;

reactant | tosylate | S(=O)(=O)([O-])C1=CC=C(C)C=C1
reactant | epichlorohydrin | C(Cl)C1CO1 | C3H5ClO
product | 4-(4'-tert.butylphenyl)-1,2-epoxybutane | C(C)(C)(C)C1=CC=C(C=C1)CCC1CO1 | C14H20O
